US07595312B2
(S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione
Prepared analogously to Example 10.26 from 100 mg (0.18 mmol) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid and 39.1 mg (0.2 mmol) 2-methyl-5-piperidin-4-yl-2,5-diaza-bicyclo[2.2.1]heptane using triethylamine as the base.

reactant | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | 0.18 mmol, 100 mg | NC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N4O4
reactant | 2-methyl-5-piperidin-4-yl-2,5-diaza-bicyclo[2.2.1]heptane | 0.2 mmol, 39.1 mg | CN1C2CN(C(C1)C2)C2CCNCC2 | C11H21N3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-1-[4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-piperidin-1-yl]-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butan-1,4-dione | NC1=C(C=C(C[C@H](C(=O)N2CCC(CC2)N2C3CN(C(C2)C3)C)CC(=O)N3CCC(CC3)N3C(NC2=C(CC3)C=CC=C2)=O)C=C1C(F)(F)F)Cl | C37H47ClF3N7O3
